US08258130B2
A solution of 5-methanesulfonyl-indoline (4.11 mmol) and MnO2 (20.55 mmol) in DCM (20 mL) is stirred at rt overnight. The reaction mixture is filtered and the filtrate is concentrated in vacuo to afford 5-methanesulfonyl-1H-indole (782 mg, 100%) as a solid. MS: 196 (M+H); 1H NMR (300 MHz, CDCl3): δ 3.09 (s, 3H), 6.71 (s, H), 7.39 (s, H), 7.53 (d, H), 7.74 (m, H), 8.30 (s, H), 8.66 (br, N—H).

reactant | 5-methanesulfonyl-indoline | 4.11 mmol | CS(=O)(=O)C=1C=C2CCNC2=CC1 | C9H11NO2S
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
catalyst | MnO2 | 20.55 mmol | O=[Mn]=O
product | 5-methanesulfonyl-1H-indole | 782 mg, 100% | CS(=O)(=O)C=1C=C2C=CNC2=CC1 | C9H9NO2S
